2133-12-19 05:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2133-12-19**] 12:00 AM
   [**2132-12-17**]
   - keppra held, mental status improved
   - UCx. Blood Cx pending
   EEG: Widespread encephalopathy: Medications, metabolic disturbances,
   and infection, hypoxia are among the most common causes. Hypoxia is
   another possible explanation. No focal slowing. No clearly epileptiform
   features.
   - T 101 o/n, sputum cultures sent
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-19**] 05:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.1
C (100.6
   HR: 101 (86 - 112) bpm
   BP: 137/66(81) {101/35(51) - 169/102(108)} mmHg
   RR: 24 (17 - 40) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
             Total In:
                                                                  1,770 mL
                                                                    403 mL
   PO:
                                                                    240 mL
             TF:
                                                                    994 mL
                                                                    345 mL
   IVF:
                                                                    476 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    435 mL
   Urine:
                                                                  1,870 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    -33 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 99%
   ABG: ///25/
   Physical Examination
   General:  even more alert today, sitting up in the bed,  follows
   commands, says few words appropriately
   HEENT: pinpoint pupils, reactive b/l
   Neck: supple, JVP not elevated
   Lungs: rhonchi BL consistent with upper respiratory sounds, no wheezes
   or crackles
   CV: distant heart sounds, regular rate, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   242 K/uL
   9.7 g/dL
   150 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   23 mg/dL
   108 mEq/L
   138 mEq/L
   28.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2133-12-12**]  02:24 AM
                             [**2133-12-16**]  11:49 AM
                             [**2133-12-17**]  03:46 AM
                             [**2133-12-17**]  05:21 AM
                             [**2133-12-17**]  12:19 PM
                             [**2133-12-17**]  05:45 PM
                             [**2133-12-18**]  03:11 AM
                             [**2133-12-18**]  09:26 AM
                             [**2133-12-18**]  05:13 PM
                             [**2133-12-19**]  03:38 AM
   WBC
   10.9
   10.7
   11.3
   10.7
   12.1
   14.6
   17.0
   14.8
   Hct
   25.6
   31.7
   24.1
   25.2
   28.2
   27.7
   28.0
   30.7
   29.0
   28.0
   Plt
   189
   320
   221
   241
   265
   243
   258
   242
   Cr
   1.3
   1.3
   0.8
   1.1
   0.9
   0.9
   TropT
   0.08
   Glucose
   129
   142
   95
   102
   138
   150
   Other labs: PT / PTT / INR:17.0/36.3/1.5, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:84.1 %, Lymph:8.5 %, Mono:3.9 %, Eos:3.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Assessment and Plan
   This is a 84 M w/ pmh of recent SDH s/p boreholes X 2, also w/
   recurrent DVTs s/p IVC filter, here w/ persistently altered mental
   status, now s/p hypoxia in the setting of large mucus plugs.  This is
   now resolved.
   .
   # Hypoxia/ ? PNA:  Secondary to very large mucus plugs (X 3) as were
   evident w/ suctioning.  His hypoxia is now resolved.  This seems
   largely secondary to inability to mobilize secretions in the setting of
   large SDH.  He has continued secretions requiring suctioning.   However
   patient has been febrile overnight with elevated white count.  Will
   start treating for possible pneumonia given questionable RML infiltrate
   on CXR this AM.
   - Start levofloxacin and vancomycin today for empiric coverage
   - humidified air
   - chest pt and frequent suctioning
   .
   # AMS:  Pt was much more alert following discontinuation of Keppra and
   dementia medications.
   - EEG did not show evidence of seizure
   - Neuro recs, no need to restart keppra and dementia meds at this time
   - Son believes the patient is much more alert and oriented today
   .
   # Anemia: Unclear etiology of blood loss.  No evidence of RP bleed or
   recurrent SDH.  Received 1 U pRBC.
   - d/c heparin and coumadin given recurrent bleeding
   - no evidence of hemolysis
   - guiac stool positive, GI consulted, do not think they will do any
   procedure today, just watch and wait to see if there is subsequent hct
   drops or more bleeding which there has not been
   .
   # Recurrent DVTs: stop coumadin and heparin in the setting of recurrent
   SDH and hct drop.
   - s/p IVC filter
   .
   # Recurrent SDH: Likely the underlying cause of his poor overall
   functional and mental status.  Per CT head, no acute bleed.  Speech and
   swallow would not even evaluate him secondary to his mental status.
   Would need PEG in the future, but currently getting feeds from tube
   feeds.
   - Appreciate neurology recs.  Discontinued keppra.
   .
   # Transaminitis: Ultrasound performed on [**12-9**] was unremarkable.
   - Follow trend for now-appears to be improving
   .
   # FEN: IVF, replete electrolytes-after repeat evaluation, Tube feeds
   via dopoff-NPO after midnight
   .
   # Prophylaxis: pneumoboots
   .
   # Access: double-lumen PICC
   .
   # Code: presumed full
   .
   # Communication: HCP [**Name (NI) **] ([**Telephone/Fax (1) 3849**]
   .
   # Disposition: ICU for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-12-19**] 03:58 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2133-12-16**] 11:32 AM
   20 Gauge - [**2133-12-16**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-12-19 12:05:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2133-12-19**] 12:00 AM
 CALLED OUT
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Flowsheet Data as of  [**2133-12-19**] 12:02 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.3
C (100.9
   HR: 102 (89 - 112) bpm
   BP: 135/79(92) {101/35(51) - 169/102(108)} mmHg
   RR: 14 (14 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
             Total In:
                                                                  1,770 mL
                                                                    899 mL
   PO:
                                                                    240 mL
             TF:
                                                                    994 mL
                                                                    730 mL
   IVF:
                                                                    476 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  1,870 mL
                                                                    765 mL
   Urine:
                                                                  1,870 mL
                                                                    765 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -100 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   242 K/uL
   150 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   23 mg/dL
   108 mEq/L
   138 mEq/L
   28.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2133-12-12**]  02:24 AM
                             [**2133-12-16**]  11:49 AM
                             [**2133-12-17**]  03:46 AM
                             [**2133-12-17**]  05:21 AM
                             [**2133-12-17**]  12:19 PM
                             [**2133-12-17**]  05:45 PM
                             [**2133-12-18**]  03:11 AM
                             [**2133-12-18**]  09:26 AM
                             [**2133-12-18**]  05:13 PM
                             [**2133-12-19**]  03:38 AM
   WBC
   10.9
   10.7
   11.3
   10.7
   12.1
   14.6
   17.0
   14.8
   Hct
   25.6
   31.7
   24.1
   25.2
   28.2
   27.7
   28.0
   30.7
   29.0
   28.0
   Plt
   189
   320
   221
   241
   265
   243
   258
   242
   Cr
   1.3
   1.3
   0.8
   1.1
   0.9
   0.9
   TropT
   0.08
   Glucose
   129
   142
   95
   102
   138
   150
   Other labs: PT / PTT / INR:17.0/36.3/1.5, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:84.1 %, Lymph:8.5 %, Mono:3.9 %, Eos:3.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:9.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:3.0 mg/dL
   Imaging: CXR--Minimal infiltrate in Right lower lung field--not with
   significant change from prior day.
   Assessment and Plan
   84 yo male with acute on chronic SDH with admission to ICU with
   multiple airway secreations and blood noted.  He has had improved
   mental status with minimization of polypharmacy.  He does have
   meaninful impairment in the capacity to maintain secretion clearnace
   and airway patency despite that.
   1)Sub-Dural Hematoma-
   -Avoid anticoagulation
   -Regular Neuro examinations
   -Continue with monitoring
   2)Aspiration Pneumonitis-
   -Continued secreations
   -Frequent suctioning will be needed to maintain clearance
   -ABX for significant infiltrates in the setting of fever and rising WBC
   count
   3)Anemia
chronic and stable over past days.
   -GI eval completed
   -Will continue with tube feeds per GI rec
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERNATREMIA (HIGH SODIUM)
 SUBDURAL HEMORRHAGE (SDH)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-12-19**] 07:52 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-12-16**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
will need to readdress for goals of care.
   Disposition :ICU
   Total time spent: 35 minutes

2133-12-20 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - [**Name (NI) 160**] son thinks he is MUCH more lucid today and wants to continue to
   monitor as he continues to improve, very encouraged
   - Neuro does not want to restart any neuroactive medications given
   improvement
   - UA pending did not show sign of infection
   - Spiked a temp to 101 F, recultured blood and sputum, tylenol given
   - Temp up to 104 F, gave tylenol, added flagyl for aspiration coverage,
   given patient is penicillin allergic.  Considered Head CT for eval of
   SDH as cause of fever.  After tylenol decreased to 102.6 without
   cooling blanket.
 BLOOD CULTURED - At [**2133-12-19**] 10:52 PM
 FEVER - 104.1
F - [**2133-12-20**] 01:49 AM
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-19**] 04:52 PM
   Metronidazole - [**2133-12-20**] 02:38 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-12-19**] 08:11 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-20**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 38.9
C (102.1
   HR: 146 (84 - 147) bpm
   BP: 94/62(46) {75/45(46) - 148/79(105)} mmHg
   RR: 27 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
             Total In:
                                                                  2,402 mL
                                                                    578 mL
   PO:
             TF:
                                                                  1,812 mL
                                                                    410 mL
   IVF:
                                                                    490 mL
                                                                    168 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    410 mL
   Urine:
                                                                  1,695 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    707 mL
                                                                    168 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   General:  even more alert today, sitting up in the bed,  follows
   commands, says few words appropriately, but mental status appears to
   wax and wane throughout AM
   HEENT: pinpoint pupils, reactive b/l
   Neck: supple, JVP not elevated
   Lungs: rhonchi BL consistent with upper respiratory sounds, no wheezes
   or crackles
   CV: distant heart sounds, regular rate, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   269 K/uL
   10.2 g/dL
   131 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   103 mEq/L
   136 mEq/L
   29.2 %
   15.2 K/uL
        [image002.jpg]
                             [**2133-12-16**]  11:49 AM
                             [**2133-12-17**]  03:46 AM
                             [**2133-12-17**]  05:21 AM
                             [**2133-12-17**]  12:19 PM
                             [**2133-12-17**]  05:45 PM
                             [**2133-12-18**]  03:11 AM
                             [**2133-12-18**]  09:26 AM
                             [**2133-12-18**]  05:13 PM
                             [**2133-12-19**]  03:38 AM
                             [**2133-12-20**]  02:14 AM
   WBC
   10.7
   11.3
   10.7
   12.1
   14.6
   17.0
   14.8
   15.2
   Hct
   31.7
   24.1
   25.2
   28.2
   27.7
   28.0
   30.7
   29.0
   28.0
   29.2
   Plt
   [**Telephone/Fax (3) 3951**]65
   243
   258
   242
   269
   Cr
   1.3
   0.8
   1.1
   0.9
   0.9
   0.9
   TropT
   0.08
   Glucose
   142
   95
   102
   138
   150
   131
   Other labs: PT / PTT / INR:15.9/30.1/1.4, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:84.1 %, Lymph:8.5 %, Mono:3.9 %, Eos:3.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   This is a 84 M w/ pmh of recent SDH s/p boreholes X 2, also w/
   recurrent DVTs s/p IVC filter, here w/ persistently altered mental
   status, now s/p hypoxia in the setting of large mucus plugs.  This is
   now resolved.
   .
   # Hypoxia/ ? PNA:  Secondary to very large mucus plugs (X 3) as were
   evident w/ suctioning.  His hypoxia is now resolved.  This seems
   largely secondary to inability to mobilize secretions in the setting of
   large SDH.  He has continued secretions requiring suctioning.   However
   patient has been febrile overnight with elevated white count.  Will
   start treating for possible pneumonia given apical right lower lobe
   infiltrate on CXR this AM.
   - Start will begin vanc/aztreonam/flagyl today for empiric coverage per
   ID
   - humidified air
   - chest pt and frequent suctioning
   - hypotension likely from infection, treated with NS IV
   - arterial line
   - sputum culture pending
   .
   # AMS:  Pt was much more alert following discontinuation of Keppra and
   dementia medications.
   - EEG did not show evidence of seizure
   - Neuro recs, no need to restart keppra and dementia meds at this time
   - Son believes the patient is much more alert and oriented today
   .
   # Anemia: Unclear etiology of blood loss.  No evidence of RP bleed or
   recurrent SDH.  Received 1 U pRBC.
   - d/c heparin and coumadin given recurrent bleeding
   - no evidence of hemolysis
   - guiac stool positive, GI consulted, do not think they will do any
   procedure today, just watch and wait to see if there is subsequent hct
   drops or more bleeding which there has not been
   .
   # Recurrent DVTs: stop coumadin and heparin in the setting of recurrent
   SDH and hct drop.
   - s/p IVC filter
   .
   # Recurrent SDH: Likely the underlying cause of his poor overall
   functional and mental status.  Per CT head, no acute bleed.  Speech and
   swallow would not even evaluate him secondary to his mental status.
   Would need PEG in the future, but currently getting feeds from tube
   feeds.
   - Appreciate neurology recs.  Discontinued keppra.
   .
   # Transaminitis: Ultrasound performed on [**12-9**] was unremarkable.
   - Follow trend for now-appears to be improving
   .
   # FEN: IVF, replete electrolytes-after repeat evaluation, Tube feeds
   via dopoff
   .
   # Prophylaxis: pneumoboots
   .
   # Access: double-lumen PICC
   .
   # Code: presumed full
   .
   # Communication: HCP [**Name (NI) **] ([**Telephone/Fax (1) 3849**]
   .
   # Disposition: ICU for now
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERNATREMIA (HIGH SODIUM)
 SUBDURAL HEMORRHAGE (SDH)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-12-19**] 10:43 PM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2133-12-16**] 11:32 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-12-20 08:41:00 Physician Attending Progress Note
Chief Complaint: Seizure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2133-12-19**] 10:52 PM
 FEVER - 104.1
F - [**2133-12-20**] 01:49 AM
   -Patient with evolution of significant fever over night and with
   worsening hypotension.  Meropenem added and no culture results seen as
   positive yet
   -Keppra D/C'd with improved alertness
   History obtained from Medical records
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Metronidazole - [**2133-12-20**] 02:38 AM
   Vancomycin - [**2133-12-20**] 07:15 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-12-20**] 07:32 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia, HR-144
   Flowsheet Data as of  [**2133-12-20**] 08:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40.1
C (104.1
   Tcurrent: 38.8
C (101.9
   HR: 125 (84 - 147) bpm
   BP: 116/56(71) {75/45(46) - 148/79(105)} mmHg
   RR: 19 (12 - 32) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
             Total In:
                                                                  2,421 mL
                                                                  1,541 mL
   PO:
             TF:
                                                                  1,831 mL
                                                                    587 mL
   IVF:
                                                                    490 mL
                                                                    895 mL
   Blood products:
   Total out:
                                                                  1,695 mL
                                                                    470 mL
   Urine:
                                                                  1,695 mL
                                                                    470 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    726 mL
                                                                  1,071 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 100%
   ABG: ///25/
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: , Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Verbal stimuli, Movement: Not assessed, Tone: Not assessed,
   Substantial worsening overnight in capacity to follow commands
   Labs / Radiology
   10.2 g/dL
   269 K/uL
   131 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.0 mEq/L
   25 mg/dL
   103 mEq/L
   136 mEq/L
   29.2 %
   15.2 K/uL
        [image002.jpg]
                             [**2133-12-16**]  11:49 AM
                             [**2133-12-17**]  03:46 AM
                             [**2133-12-17**]  05:21 AM
                             [**2133-12-17**]  12:19 PM
                             [**2133-12-17**]  05:45 PM
                             [**2133-12-18**]  03:11 AM
                             [**2133-12-18**]  09:26 AM
                             [**2133-12-18**]  05:13 PM
                             [**2133-12-19**]  03:38 AM
                             [**2133-12-20**]  02:14 AM
   WBC
   10.7
   11.3
   10.7
   12.1
   14.6
   17.0
   14.8
   15.2
   Hct
   31.7
   24.1
   25.2
   28.2
   27.7
   28.0
   30.7
   29.0
   28.0
   29.2
   Plt
   [**Telephone/Fax (3) 3951**]65
   243
   258
   242
   269
   Cr
   1.3
   0.8
   1.1
   0.9
   0.9
   0.9
   TropT
   0.08
   Glucose
   142
   95
   102
   138
   150
   131
   Other labs: PT / PTT / INR:15.9/30.1/1.4, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:84.1 %, Lymph:8.5 %, Mono:3.9 %, Eos:3.2 %, Lactic
   Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:9.2 mg/dL,
   Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Imaging: CXR-Significant increase in RLL opacities with
   Microbiology: No new results
   Assessment and Plan
   84 yo male with significant and ongoing impairment in mental status
   even in the setting of decrease in sedating medications.  This in
   combination with evolution of significant fever, tachycardia and
   hypotension with clear evolution of what appears to be right sided
   pneumonia
concerning for aspiration pneumonia and sepsis may explain
   the changes.  His initial presentation with SDH and altered mental
   status/seizure do appear to have contributed to risk of development of
   this complication.
   1)Pneumonia
likely aspiration related and contributing to sepsis.
   -Vanco/[**Last Name (un) 350**]/Cipro
   -Sputum GS C+S
   2)Sepsis
Likely pulmonary source, is clearly with hypovolemia
   -IVF bolus to get to stable BP
   -If move to pressors needed will move to CVL placement for better
   monitoring
   -Levophed if needed
   3)Seizure-
   -Decrease Keppra
   -Follow up change in meds in consultation with Neurology
   4)SDH
Patient has had some altered mental status today in the setting
   of evolution of pneumonia
   -Follow Exam
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERNATREMIA (HIGH SODIUM)
 SUBDURAL HEMORRHAGE (SDH)
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2133-12-20**] 05:24 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2133-12-16**] 11:32 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2133-12-21 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2133-12-20**]
   - Mental status declined patient noted to have persistent fevers
   - Abx changed to vanc/aztreonam/flagyl/Cipro per ID recs
   - Right radial art line placed
   - L IJ placed
   - Pressure increased with fluids, but became Tachy to 160s rate
   decreased to 130 with cooling (tmax 104)
   - Remained very uncomfortable, given morphine/ativan/haldol
   - Code status changed from Full to DNR/DNI confirmed with Son [**Name (NI) **] [**Telephone/Fax (1) 3971**]
   - Started on Levo for pressure then weaned off
   - Replete K, Mg, Phos
   - Nurse found patient to be aspirating TF when laying flat. TF held
   overnight to determine if some improvement.
 SPUTUM CULTURE - At [**2133-12-20**] 08:09 AM
 BLOOD CULTURED - At [**2133-12-20**] 10:10 AM
 ARTERIAL LINE - START [**2133-12-20**] 12:02 PM
 MULTI LUMEN - START [**2133-12-20**] 03:03 PM
 PICC LINE - STOP [**2133-12-20**] 04:14 PM
 EKG - At [**2133-12-20**] 07:30 PM
 ULTRASOUND - At [**2133-12-20**] 07:56 PM
   cardiac US
 URINE CULTURE - At [**2133-12-20**] 08:26 PM
 FEVER - 104.0
F - [**2133-12-20**] 05:15 PM
 CALLED OUT
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-20**] 07:56 PM
   Ciprofloxacin - [**2133-12-21**] 12:07 AM
   Aztreonam - [**2133-12-21**] 04:44 AM
   Metronidazole - [**2133-12-21**] 06:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2133-12-20**] 08:03 PM
   Haloperidol (Haldol) - [**2133-12-21**] 01:14 AM
   Morphine Sulfate - [**2133-12-21**] 06:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-21**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 40
C (104
   Tcurrent: 36.8
C (98.3
   HR: 144 (84 - 164) bpm
   BP: 137/69(86) {96/48(62) - 172/84(213)} mmHg
   RR: 22 (11 - 29) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
    CVP: 16 (6 - 26)mmHg
   CO/CI (Fick): (6.6 L/min) / (3.7 L/min/m2)
   SvO2: 70%
   Total In:
                                                                  9,596 mL
                                                                  2,285 mL
   PO:
   TF:
                                                                  1,566 mL
                                                                    213 mL
   IVF:
                                                                  7,545 mL
                                                                  2,072 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,065 mL
                                                                    480 mL
   Urine:
                                                                  1,065 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,531 mL
                                                                  1,805 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 93%
   ABG: 7.37/33/111/17/-4
   PaO2 / FiO2: 222
   Physical Examination
   General:  even more alert today, sitting up in the bed,  follows
   commands, says few words appropriately, but mental status appears to
   wax and wane throughout AM
   HEENT: pinpoint pupils, reactive b/l
   Neck: supple, JVP not elevated
   Lungs: rhonchi BL consistent with upper respiratory sounds, no wheezes
   or crackles
   CV: distant heart sounds, regular rate, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   248 K/uL
   10.2 g/dL
   135 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   26 mg/dL
   110 mEq/L
   136 mEq/L
   29.4 %
   13.6 K/uL
        [image002.jpg]
                             [**2133-12-18**]  03:11 AM
                             [**2133-12-18**]  09:26 AM
                             [**2133-12-18**]  05:13 PM
                             [**2133-12-19**]  03:38 AM
                             [**2133-12-20**]  02:14 AM
                             [**2133-12-20**]  01:57 PM
                             [**2133-12-20**]  03:28 PM
                             [**2133-12-20**]  07:33 PM
                             [**2133-12-20**]  09:09 PM
                             [**2133-12-21**]  12:00 AM
   WBC
   14.6
   17.0
   14.8
   15.2
   13.6
   Hct
   28.0
   30.7
   29.0
   28.0
   29.2
   26
   26.7
   29.4
   Plt
   243
   258
   242
   269
   248
   Cr
   0.9
   0.9
   0.9
   1.1
   1.0
   TCO2
   21
   20
   Glucose
   138
   150
   131
   145
   135
   Other labs: PT / PTT / INR:19.5/44.3/1.8, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:94.1 %, Band:0.0 %, Lymph:2.9 %, Mono:1.7 %, Eos:1.2
   %, Lactic Acid:1.9 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   This is a 84 M w/ pmh of recent SDH s/p boreholes X 2, also w/
   recurrent DVTs s/p IVC filter, here w/ persistently altered mental
   status, now s/p hypoxia in the setting of large mucus plugs.  This is
   now resolved.
   .
   # Hypoxia/ ? PNA:  Secondary to very large mucus plugs (X 3) as were
   evident w/ suctioning.  His hypoxia is now resolved.  This seems
   largely secondary to inability to mobilize secretions in the setting of
   large SDH.  He has continued secretions requiring suctioning.   However
   patient has been febrile overnight with elevated white count.  Will
   start treating for possible pneumonia given apical right lower lobe
   infiltrate on CXR worsened from yesterday AM.
   - Continue vanc/aztreonam/flagyl/cipro for empiric coverage per ID
   - humidified air
   - chest pt and frequent suctioning
   - hypotension likely from infection, treated with NS IV
   - arterial line
   - sputum culture pending
   - continue to monitor oxygen sats
   .
   # AMS:  Pt was much more alert following discontinuation of Keppra and
   dementia medications.
   - EEG did not show evidence of seizure
   - Neuro recs, no need to restart keppra and dementia meds at this time
   - Son believes the patient is much more alert and oriented off keppra,
   but had acute decompensation yesterday in setting of fever and
   tachycardia presumed to be sepsis from pneumonia
   .
   #Tachycardia/labile BP:  Likely related to infection, only transiently
   fluid responsive.  Tachycardia improves though not to normal limits
   with morphine.
   -continue morphine PRN
   .
   # Anemia: Unclear etiology of blood loss.  No evidence of RP bleed or
   recurrent SDH.  Received 1 U pRBC. Overnight for ScvO2 of 63
   - d/c heparin and coumadin given recurrent bleeding
   - no evidence of hemolysis
   - guiac stool positive, GI consulted, no EGD/scope indicated at this
   time
   - Follow HCT
   .
   #Coagulopathy: Unclear cause of increase overnight, possibly
   nutritional related.  No active bleeding
   -Monitor INR
   .
   # Recurrent DVTs: stop coumadin and heparin in the setting of recurrent
   SDH and hct drop.
   - s/p IVC filter
   .
   # Recurrent SDH: Likely the underlying cause of his poor overall
   functional and mental status.  Per CT head, no acute bleed.  Speech and
   swallow would not even evaluate him secondary to his mental status.
   Would need PEG in the future, but currently getting feeds from tube
   feeds.
   - Appreciate neurology recs.  Discontinued keppra.
   .
   # Transaminitis: Ultrasound performed on [**12-9**] was unremarkable.
   - Follow trend for now-appears to be improving
   .
   # FEN: IVF, replete electrolytes-after repeat evaluation, D/c Tube
   feeds via dopoff
   .
   # Prophylaxis: pneumoboots
   .
   # Access: IJ
   .
   # Code: DNR/DNI
   .
   # Communication: HCP [**Name (NI) **] ([**Telephone/Fax (1) 3849**]
   .
   # Disposition: ICU for now
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERNATREMIA (HIGH SODIUM)
 SUBDURAL HEMORRHAGE (SDH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-12-20**] 10:07 AM
   Arterial Line - [**2133-12-20**] 12:02 PM
   Multi Lumen - [**2133-12-20**] 03:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2133-12-22 06:51:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2133-12-21**] 04:15 PM
 FEVER - 102.1
F - [**2133-12-21**] 04:00 PM
   [**2133-12-21**]
   - Hct stable
   - Son agrees to not escalate care, not yet CMO
   - Vanc trough 23.1
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2133-12-21**] 11:10 PM
   Ciprofloxacin - [**2133-12-22**] 12:00 AM
   Aztreonam - [**2133-12-22**] 04:12 AM
   Metronidazole - [**2133-12-22**] 06:17 AM
   Infusions:
   Norepinephrine - 0.23 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2133-12-21**] 10:20 AM
   Morphine Sulfate - [**2133-12-22**] 06:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2133-12-22**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102.1
   Tcurrent: 36.1
C (97
   HR: 104 (104 - 146) bpm
   BP: 100/57(72) {66/39(48) - 137/77(99)} mmHg
   RR: 18 (18 - 33) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 66.9 kg (admission): 65 kg
   Height: 69 Inch
    CVP: 8 (1 - 10)mmHg
   CO/CI (Fick): (10.5 L/min) / (5.8 L/min/m2)
   SvO2: 81%
   Total In:
                                                                  6,045 mL
                                                                    809 mL
   PO:
   TF:
                                                                    213 mL
   IVF:
                                                                  5,602 mL
                                                                    809 mL
   Blood products:
   Total out:
                                                                  1,047 mL
                                                                    290 mL
   Urine:
                                                                  1,047 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,998 mL
                                                                    519 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 98%
   ABG: 7.34/30/63/16/-8
   PaO2 / FiO2: 90
   Physical Examination
   General:  even more alert today, sitting up in the bed,  follows
   commands, says few words appropriately, but mental status appears to
   wax and wane throughout AM
   HEENT: pinpoint pupils, reactive b/l
   Neck: supple, JVP not elevated
   Lungs: rhonchi BL consistent with upper respiratory sounds, no wheezes
   or crackles
   CV: distant heart sounds, regular rate, normal S1 + S2, no murmurs,
   rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   280 K/uL
   9.4 g/dL
   145 mg/dL
   1.3 mg/dL
   16 mEq/L
   3.7 mEq/L
   32 mg/dL
   109 mEq/L
   135 mEq/L
   28.0 %
   13.9 K/uL
        [image002.jpg]
                             [**2133-12-20**]  01:57 PM
                             [**2133-12-20**]  03:28 PM
                             [**2133-12-20**]  07:33 PM
                             [**2133-12-20**]  09:09 PM
                             [**2133-12-21**]  12:00 AM
                             [**2133-12-21**]  01:49 PM
                             [**2133-12-21**]  06:02 PM
                             [**2133-12-21**]  06:13 PM
                             [**2133-12-22**]  03:12 AM
                             [**2133-12-22**]  03:28 AM
   WBC
   13.6
   13.9
   Hct
   26
   26.7
   29.4
   32
   28.8
   28.0
   Plt
   248
   280
   Cr
   1.1
   1.0
   1.3
   TCO2
   21
   20
   18
   17
   Glucose
   145
   135
   145
   Other labs: PT / PTT / INR:23.2/46.3/2.2, CK / CKMB /
   Troponin-T:111/4/0.08, ALT / AST:72/55, Alk Phos / T Bili:81/0.4,
   Differential-Neuts:94.1 %, Band:0.0 %, Lymph:2.9 %, Mono:1.7 %, Eos:1.2
   %, Lactic Acid:3.6 mmol/L, Albumin:1.9 g/dL, LDH:232 IU/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   This is a 84 M w/ pmh of recent SDH s/p boreholes X 2, also w/
   recurrent DVTs s/p IVC filter, here w/ persistently altered mental
   status, now s/p hypoxia in the setting of large mucus plugs.  This is
   now resolved.
   .
   # Hypoxia/ ? PNA:  Secondary to very large mucus plugs (X 3) as were
   evident w/ suctioning.  His hypoxia is now resolved.  This seems
   largely secondary to inability to mobilize secretions in the setting of
   large SDH.  He has continued secretions requiring suctioning.   However
   patient has been febrile overnight with elevated white count.  Will
   start treating for possible pneumonia given apical right lower lobe
   infiltrate on CXR worsened from yesterday AM.
   - Continue vanc/aztreonam/flagyl/cipro for empiric coverage per ID
   - humidified air
   - chest pt and frequent suctioning
   - hypotension likely from infection, treated with NS IV
   - arterial line
   - sputum culture pending
   - continue to monitor oxygen sats
   .
   # AMS:  Pt was much more alert following discontinuation of Keppra and
   dementia medications.
   - EEG did not show evidence of seizure
   - Neuro recs, no need to restart keppra and dementia meds at this time
   - Son believes the patient is much more alert and oriented off keppra,
   but had acute decompensation yesterday in setting of fever and
   tachycardia presumed to be sepsis from pneumonia
   .
   #Tachycardia/labile BP:  Likely related to infection, only transiently
   fluid responsive.  Tachycardia improves though not to normal limits
   with morphine.
   -continue morphine PRN
   .
   # Anemia: Unclear etiology of blood loss.  No evidence of RP bleed or
   recurrent SDH.  Received 1 U pRBC. Overnight for ScvO2 of 63
   - d/c heparin and coumadin given recurrent bleeding
   - no evidence of hemolysis
   - guiac stool positive, GI consulted, no EGD/scope indicated at this
   time
   - Follow HCT
   .
   #Coagulopathy: Unclear cause of increase overnight, possibly
   nutritional related.  No active bleeding
   -Monitor INR
   .
   # Recurrent DVTs: stop coumadin and heparin in the setting of recurrent
   SDH and hct drop.
   - s/p IVC filter
   .
   # Recurrent SDH: Likely the underlying cause of his poor overall
   functional and mental status.  Per CT head, no acute bleed.  Speech and
   swallow would not even evaluate him secondary to his mental status.
   Would need PEG in the future, but currently getting feeds from tube
   feeds.
   - Appreciate neurology recs.  Discontinued keppra.
   .
   # Transaminitis: Ultrasound performed on [**12-9**] was unremarkable.
   - Follow trend for now-appears to be improving
   .
   # FEN: IVF, replete electrolytes-after repeat evaluation, D/c Tube
   feeds via dopoff
   .
   # Prophylaxis: pneumoboots
   .
   # Access: IJ
   .
   # Code: DNR/DNI
   .
   # Communication: HCP [**Name (NI) **] ([**Telephone/Fax (1) 3849**]
   .
   # Disposition: ICU for now
 TACHYCARDIA, OTHER
 HYPOTENSION (NOT SHOCK)
 .H/O FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 AIRWAY CLEARANCE, IMPAIRED
 AEROBIC CAPACITY / ENDURANCE, IMPAIRED
 AROUSAL, ATTENTION, AND COGNITION, IMPAIRED
 BALANCE, IMPAIRED
 TRANSFERS, IMPAIRED
 DEEP VENOUS THROMBOSIS (DVT), LOWER EXTREMITY
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 HYPERNATREMIA (HIGH SODIUM)
 SUBDURAL HEMORRHAGE (SDH)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2133-12-20**] 10:07 AM
   Arterial Line - [**2133-12-20**] 12:02 PM
   Multi Lumen - [**2133-12-20**] 03:03 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: